US05025031
Sulfamic acid 3-cyanophenyl ester
Using the procedure described in Example 56, the title compound was prepared in 85% yield from 10.3 g (0.086 mole) of 3-cyanophenol and 8.3 ml (0.086 mole) of chlorosulfonyl isocyanate in 75 ml of toluene as a white solid, mp 101°-104° C. (benzene-acetonitrile).

reactant | 3-cyanophenol | 0.086 mole, 10.3 g | C(#N)C=1C=C(C=CC1)O | C7H5NO
reactant | chlorosulfonyl isocyanate | 0.086 mole, 8.3 ml | ClS(=O)(=O)N=C=O | CClNO3S
reactant | benzene-acetonitrile | C1(=CC=CC=C1)CC#N | C8H7N
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
product | Sulfamic acid 3-cyanophenyl ester | 85% yield | C(#N)C=1C=C(C=CC1)OS(N)(=O)=O | C7H6N2O3S
